US07612114B2
(R)-6-{2-{Ethyl[3-fluoro-4-(3-piperidin-1-ylpropoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 1-(3-chloropropyl)piperidine (19 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (13 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 1-(3-chloropropyl)piperidine | 19 mg | ClCCCN1CCCCC1 | C8H16ClN
product | (R)-6-{2-{Ethyl[3-fluoro-4-(3-piperidin-1-ylpropoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 13 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCCN1CCCCC1)F | C34H43FN2O3
